US04853414
A solution of n-butyllithium (2.7M in n-hexane, 21 cm3) was added dropwise to a stirred solution of 2,3,5,6-tetrafluorotoluene (9.0 g) in dry dimethoxymethane cooled to -70° C. under a nitrogen atmosphere and the mixture stirred for one hour. Carbon dioxide was then passed into the mixture for 3 hours during which time a white solid precipitate formed. After allowing the mixture to attain the ambient temperature (ca. 22° C.) it was poured into water. The resultant mixture was acidified with dilute hydrochloric acid and extracted with diethyl ether. The ethereal extract was washed with water and dried over anhydrous magnesium sulphate. Removal of the solvent yielded a semi solid residue which on trituration with petroleum ether (boiling range 40°-60° C.) gave 4-methyl-2,3,5,6-tetrafluorobenzoic acid (2.5 g) white crystals, mp 168° C. (Infra red C=O, 1700 cm-1.)

reactant | n-butyllithium | 2.7M, 21 cm3 | C(CCC)[Li]
reactant | 2,3,5,6-tetrafluorotoluene | 9.0 g | FC1=C(C(=C(C=C1F)F)F)C | C7H4F4
reactant | Carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethoxymethane | COCOC | C3H8O2
solvent | water | O | H2O
product | 4-methyl-2,3,5,6-tetrafluorobenzoic acid | 2.5 g | CC1=C(C(=C(C(=O)O)C(=C1F)F)F)F | C8H4F4O2
